US04137315
A solution of 4-ethoxy-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline (4.45 g) in N,N-diethylethylenediamine (67 cc) is stirred at a temperature of about 20° C. After stirring for 5 minutes, crystals are formed. The mixture is stirred for a further 40 minutes and the dark red suspension thus obtained is then poured into iced water (335 cc). After filtering off the crystals, they are washed with water (3 × 10 cc) and then dried under reduced pressure (1 mm Hg) at 50° C. Crude 4-(2-diethylaminoethylamino)-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline (4.20 g) is thus obtained.

reactant | 4-ethoxy-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline | 4.45 g | C(C)OC1=NC=C2C=3C(=CC=CC13)N1C(=CC=C1C2=O)[N+](=O)[O-] | C16H11N3O4
reactant | water | 335 cc | O | H2O
reactant | N,N-diethylethylenediamine | 67 cc | C(C)N(CCN)CC | C6H16N2
product | 4-(2-diethylaminoethylamino)-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline | 4.20 g | C(C)N(CCNC1=NC=C2C=3C(=CC=CC13)N1C(=CC=C1C2=O)[N+](=O)[O-])CC | C20H21N5O3
